US08865704B2
3-{4-[4-(Tetrahydro-furan-2-carbonyl)-piperazine-1-carbonyl]-cyclohexyl methyl}-1H-quinazoline-2,4-dione
To a suspension of tetrahydro-2-furoic acid (38 mg, 0.32 mmol) in DCM (3 mL) 1,1-carbonyldiimidazole (52 mg, 0.32 mmol) was added and the mixture was stirred for 6 hours at room temperature. Then 3-[trans-4-(piperazine-1-carbonyl)-cyclohexylmethyl]-1H-quinazoline-2,4-dione (100 mg, 0.27 mmol) was added and the reaction left stirring for 18 hours. The mixture was washed with 0.4 M Na2CO3 solution and the organic phase collected and concentrated under reduced pressure. The crude was purified by silica column eluting with DCM:MeOH (98:2). 70 mg of the titled compound were obtained (yield 55%).

reactant | tetrahydro-2-furoic acid | 0.32 mmol, 38 mg | O1C(CCC1)C(=O)O | C5H8O3
reactant | DCM | 0.32 mmol, 3 mL, 52 mg | C(Cl)Cl | CH2Cl2
reactant | 3-[trans-4-(piperazine-1-carbonyl)-cyclohexylmethyl]-1H-quinazoline-2,4-dione | 0.27 mmol, 100 mg | N1(CCNCC1)C(=O)[C@@H]1CC[C@H](CC1)CN1C(NC2=CC=CC=C2C1=O)=O | C20H26N4O3
product | 3-{4-[4-(Tetrahydro-furan-2-carbonyl)-piperazine-1-carbonyl]-cyclohexyl methyl}-1H-quinazoline-2,4-dione | 70 mg, yield 55% | O1C(CCC1)C(=O)N1CCN(CC1)C(=O)C1CCC(CC1)CN1C(NC2=CC=CC=C2C1=O)=O | C25H32N4O5
